US05776658
Preparation of 2-benzyl-2-dimethylamino-1-[2-(2-trimethoxysilylethyl)-4morpholinophenyl]-1-butanone (9)
14.6 g (40 mmol) of 2-benzyl-2-dimethylamino-1-(4-morpholinophenyl)-1-butanone, 750 mg (0.8 mmol) of RuH2 (CO) (PPh3)3 and 13.4 ml (88 mmol) of vinyltrimethoxysilane were dissolved in 50 ml of toluene and degased using N2. After heating with stirring at reflux for 41 hours, the solvent was distilled off and the product was chromatographed (silica gel, CH2Cl2 /ethyl acetate). 13.8 g (67%) of dark red oil were obtained which were purified by boiling in heptane with active charcoal followed by filtration to give a yellow, viscous oil. 1H-NMR (CDCl3): 0.61 ppm (3H, t, Bu-H4, 3JH,H =7.2 Hz); 1.2 ppm (2H, mc, Et-H2); 1.88 ppm (2H, mc, Bu-H3); 2.37 ppm (6H, s, N(CH3)2); 2.71 ppm (2H, mc, Et-H1); 3.16 ppm (2H, mc, CH2 -Ph); 3.25 ppm (4H, mc, morpholine-N--CH2); 3.63 ppm (9H, s, Si(OCH3)3); 3.85 ppm (4H), mc, morpholine-O-CH2); 6.61 ppm (1H, dd, Ph-H5, 3JH5,H6, =8.6 Hz, 4 JH3, H6 =2.6 Hz); 6.75 ppm (1H, d, Ph-H3); 7.14-7.29 ppm (5H, m, Ph'-H); 8.44 ppm (1H, d, Ph-H6).

reactant | 2-benzyl-2-dimethylamino-1-(4-morpholinophenyl)-1-butanone | 40 mmol, 14.6 g | C(C1=CC=CC=C1)C(C(=O)C1=CC=C(C=C1)N1CCOCC1)(CC)N(C)C | C23H30N2O2
reactant | vinyltrimethoxysilane | 88 mmol, 13.4 ml | C(=C)[Si](OC)(OC)OC | C5H12O3Si
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-benzyl-2-dimethylamino-1-[2-(2-trimethoxysilylethyl)-4morpholinophenyl]-1-butanone | 13.8 g, 67% | C(C1=CC=CC=C1)C(C(=O)C1=C(C=C(C=C1)N1CCOCC1)CC[Si](OC)(OC)OC)(CC)N(C)C | C28H42N2O5Si
